US07589206B2
(b) 2-Chloro-5-iodo-3-nitro-pyridine
A suspension of 5-iodo-3-nitro-pyridin-2-ol (20 g) in phenyl dichlorophosphate (60 ml) was heated at 180° C. for 30 minutes whereby a brown solution was obtained. The solution was allowed to cool then poured onto ice/water, neutralised by a portionwise addition of solid sodium hydrogen carbonate and extracted with ethyl acetate (300 ml) which was then washed twice with 5% sodium hydrogen carbonate solution (250 ml). The organic layer was dried (MgSO4), and evaporated to give a pale brown solid. The solid was stirred in isohexane for 2 h, filtered off, washed with isohexane and dried to afford the title compound (18.4 g).

reactant | 5-iodo-3-nitro-pyridin-2-ol | 20 g | IC=1C=C(C(=NC1)O)[N+](=O)[O-] | C5H3IN2O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | phenyl dichlorophosphate | 60 ml | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
solvent | isohexane | CCCC(C)C | C6H14
product | 2-Chloro-5-iodo-3-nitro-pyridine | 18.4 g | ClC1=NC=C(C=C1[N+](=O)[O-])I | C5H2ClIN2O2
